US08809382B2
Step 1 (2-Hex-1-enyl-1H-indole)
To a suspension of pentyl-triphenyl-phosphonium bromide in THF was added LiHMDS in THF and the mixture was stirred for 30 minutes. A solution of 1H-indole-2-carbaldehyde in THF was added to the reaction mixture and stirred for 3 hours. The reaction was treated with saturated ammonium chloride and ethyl acetate. The product was purified by column chromatography.

reactant | pentyl-triphenyl-phosphonium bromide | [Br-].C(CCCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | LiHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 1H-indole-2-carbaldehyde | N1C(=CC2=CC=CC=C12)C=O | C9H7NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Hex-1-enyl-1H-indole | C(=CCCCC)C=1NC2=CC=CC=C2C1 | C14H17N
